US07737155B2
To a CH2Cl2 solution of cyclopentylamine was added trimethylsilyl isocyanate. The reaction mixture was stirred overnight. To this was added 200 ml of CH3OH, and the mixture was stirred for another 2 hrs. The reaction mixture was concentrated and was titrated using diethyl ether to give an off-white precipitate. The precipitate was filtered through a Buchner funnel to give cyclopentyl urea Compound 30a as a white crystalline solid compound (13.0 g, 86%). To this urea Compound 30a (5.0 g, 38.7 mmol) in acetic acid (11 mL), was added malonic acid (4.0 g, 38.7 mmol) followed by acetic anhydride (18 mL) and the reaction was stirred at 70° C. for 12 hrs. The reaction mixture was concentrated, cooled in an ice bath and titrated using 4/1 EtO2/EtOAc. A pale yellow crystalline solid precipitated out. The precipitate was filtered and washed 2-3 times using cold diethyl ether to obtain a pale yellow solid Compound 30b (2.5 g, 33%).

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
reactant | trimethylsilyl isocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | CH3OH | 200 ml | CO | CH4O
product | cyclopentyl urea | C1(CCCC1)NC(=O)N | C6H12N2O
